USH0000083
A suspension of 11.95 g of 6-amino-4-hydroxy-2-naphthalenesulfonic acid in 200 ml of water was adjusted to pH 8.0 with aqueous 5N sodium hydroxide, then 12.17 g of sodium acetate trihydrate was added to the stirred mixture followed by 15.06 g of p-nitrobenzenesulfonyl chloride. The mixture was stirred vigorously under nitrogen at room temperature for 16 hours producing a yellow solid. The mixture was filtered and the solid was washed with water, ethanol and then ether and dried in vacuo and gave 12.07 g of 4-hydroxy-6-p-nitrobenzenesulfonamido-2-naphthalenesulfonic acid sodium salt as a yellow solid.

reactant | 6-amino-4-hydroxy-2-naphthalenesulfonic acid | 11.95 g | NC=1C=C2C(=CC(=CC2=CC1)S(=O)(=O)O)O | C10H9NO4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | sodium acetate trihydrate | 12.17 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | p-nitrobenzenesulfonyl chloride | 15.06 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | 200 ml | O | H2O
product | 4-hydroxy-6-p-nitrobenzenesulfonamido-2-naphthalenesulfonic acid sodium salt | 12.07 g | [Na+].OC1=CC(=CC2=CC=C(C=C12)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-] | InChI=1S/C16H12N2O8S2.Na/c19-16-9-14(28(24,25)26)7-10-1-2-11(8-15(10)16)17-27(22,23)13-5-3-12(4-6-13)18(20)21;/h1-9,17,19H,(H,24,25,26);/q;+1/p-1
